US04933333
0.8 g of 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-carboxymethyl-2-azetidinone was dissolved in 20 ml of dried methylene chloride, and 0.17 ml of N-methylmorpholine was added thereto. After cooling to -10° C. or less, 0.15 ml of ethyl chloroformate was added dropwise thereto, followed by stirring for 30 minutes. Separately, 0.81 g of t-butyl-(p-nitrobenzyl) malonate was dissolved in 15 ml of dried tetrahydrofuran, and 0.14 g of sodium hydride (50% purity) was added to the resulting solution in a nitrogen stream under ice-cooling, followed by stirring at that temperature for 30 minutes. The resulting solution was added dropwise to the above prepared solution of a mixed anhydride at a temperature of -10° C. or less, followed by stirring for 1 hour. The reaction mixture was warmed to room temperature and concentrated under reduced pressure. The concentrate was diluted with cool water and ethyl acetate, washed successively with a 1N aqueous solution of hydrochloric acid and water, dried over sodium sulfate and distilled off to remove the solvent. The resulting residue was purified by silica gel chromatography to obtain 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-[3-t-butoxycarbonyl-3-(p-nitrobenzyloxycarbonyl)-2-oxopropyl]-2-azetidinone.

reactant | 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-carboxymethyl-2-azetidinone | 0.8 g | C(C1=CC=C(C=C1)OC)C(N1C(C(C1CC(=O)O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=CC=C(C=C1)OC | C32H34N2O10
reactant | N-methylmorpholine | 0.17 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 0.15 ml | ClC(=O)OCC | C3H5ClO2
reactant | t-butyl-(p-nitrobenzyl) malonate | 0.81 g | C(CC(=O)[O-])(=O)OC(C1=CC=C(C=C1)[N+](=O)[O-])C(C)(C)C
reactant | sodium hydride | 0.14 g | [H-].[Na+]
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-[3-t-butoxycarbonyl-3-(p-nitrobenzyloxycarbonyl)-2-oxopropyl]-2-azetidinone | C(C1=CC=C(C=C1)OC)C(N1C(C(C1CC(C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=CC=C(C=C1)OC | C46H49N3O15
